US07348318B2
Synthesis of (3S)-3-amino-1-bis(4-methoxyphenylamino)phosphinyl-2-piperidone
Palladium black (30 mg) was added to a solution of (3S)-3-benzyloxycarbonylamino-1-bis(4-methoxyphenylamino)phosphinyl-2-piperidone (150.2 mg, 0.2789 mmol) in methanol (5 mL), and the resulting mixture was stirred overnight at room temperature under a hydrogen atmosphere.

reactant | (3S)-3-benzyloxycarbonylamino-1-bis(4-methoxyphenylamino)phosphinyl-2-piperidone | 0.2789 mmol, 150.2 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H]1C(N(CCC1)P(=O)(NC1=CC=C(C=C1)OC)NC1=CC=C(C=C1)OC)=O | C27H31N4O6P
solvent | methanol | 5 mL | CO | CH4O
catalyst | Palladium black | 30 mg | [Pd] | Pd
product | (3S)-3-amino-1-bis(4-methoxyphenylamino)phosphinyl-2-piperidone | N[C@@H]1C(N(CCC1)P(=O)(NC1=CC=C(C=C1)OC)NC1=CC=C(C=C1)OC)=O | C19H25N4O4P
